US04600709
27.7 g (200 mmol) of anhydrous potassium carbonate are added to a suspension of 10.6 g (40 mmol) of 4-methyl-5-phenylsulphonyl-1,2-benzenediol in 65 ml of cold 1,2-dimethoxyethane. While stirring vigorously, a solution of 7.85 g (50 mmol) of dichloroacetic acid ethyl ester in 5 ml of 1,2-dimethoxyethane is added dropwise thereto in the course of 30 minutes. The mixture is stirred for a further hour at room temperature and is then boiled under reflux for 3 hours while stirring. It is then cooled to 30°, water is added, and the whole is stirred for 30 minutes and adjusted to pH 1-2 with hydrochloric acid. Some of the 1,2-dimethoxyethane is removed in a rotary evaporator and the solution remaining is extracted three times with ethyl acetate. The combined ethyl acetate solutions are washed with water, and then with saturated sodium chloride solution, dried over sodium sulphate, treated with activated carbon and concentrated by evaporation. The resulting yellow-green oil is crystallised from ethyl acetate/hexane. The sand-coloured crystals are dissolved in ethyl acetate and treated again with activated carbon. The solvent is removed in a rotary evaporator. The yellow oil remaining is crystallised from methylene chloride at 0°, yielding 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid having a melting point of 169°-171°.

reactant | potassium carbonate | 200 mmol, 27.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-5-phenylsulphonyl-1,2-benzenediol | 40 mmol, 10.6 g | CC=1C=C(C(=CC1S(=O)(=O)C1=CC=CC=C1)O)O | C13H12O4S
reactant | dichloroacetic acid ethyl ester | 50 mmol, 7.85 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 65 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid | CC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C1=CC=CC=C1 | C15H12O6S
